US07501421B2
Preparation of 2-Chloro-6-nitrobenzothiazole
A solution of NaNO2 (3.18 g, 46.1 mmol) in water was slowly added to a solution of 2-amino-6-nitro-benzothiazole (3.00 g, 15.4 mmol) in 85% H3PO4 over a period of 30 min at 0° C. The reaction solution was stirred for 1 hour and was gradually added to a solution of CuSO4 (7.61 g, 76.8 mmol) and NaCl (13.5 g, 230 mmol) in water over a 30 min period at 0° C. The resultant suspension was allowed to warm to room temperature, stirred until gas evolution ceased, diluted with water and extracted with CH2Cl2. The extracts were combined, dried over Na2SO4 and concentrated in vacuo to provide the title compound (3.15 g, 95%), characterized by NMR and mass spectral analyses.

reactant | NaNO2 | 46.1 mmol, 3.18 g | N(=O)[O-].[Na+]
reactant | 2-amino-6-nitro-benzothiazole | 15.4 mmol, 3.00 g | NC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C7H5N3O2S
reactant | NaCl | 230 mmol, 13.5 g | [Na+].[Cl-]
solvent | water | O | H2O
solvent | H3PO4 | OP(=O)(O)O | H3O4P
catalyst | CuSO4 | 76.8 mmol, 7.61 g | [O-]S(=O)(=O)[O-].[Cu+2]
product | 2-Chloro-6-nitrobenzothiazole | 3.15 g, 95% | ClC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C7H3ClN2O2S
